US07812047B2
A solution of 8-ethyl-naphthalene-1-carboxylic acid ethyl ester (1.04 g) in THF (30 ml) was cooled to 0° C. and treated with diisobutyl aluminium hydride solution (11.4 ml; 1.2 M in toluene). The reaction mixture was stirred for 2 hrs at r.t., then again cooled to 0° C. and treated with H2O (50 ml) and 0.1N HCl (50 ml). The mixture was extracted with EtOAc. The organics were dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (silica gel; gradient cyclohexane→cyclohexane/EtOAc 4:1) to give (8-ethyl-naphthalen-1-yl)-methanol (769 mg) as white solid. MS (ISP): 187.3 ((M+H)+).

reactant | 8-ethyl-naphthalene-1-carboxylic acid ethyl ester | 1.04 g | C(C)OC(=O)C1=CC=CC2=CC=CC(=C12)CC | C15H16O2
reactant | diisobutyl aluminium hydride | 1.2 M, 11.4 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | H2O | 50 ml | O | H2O
reactant | HCl | 0.1N, 50 ml | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (8-ethyl-naphthalen-1-yl)-methanol | 769 mg | C(C)C=1C=CC=C2C=CC=C(C12)CO | C13H14O
